US09062092B2
Compound 100e. 5,5-Dimethyl-2-vinyl-[1,4]dioxane-2-carboxylic acid benzyl ester
A suspension of sodium hydride (80 mg, 2 mmol, 60% dispersion in mineral oil) in anhydrous tetrahydrofuran (3 mL) was stirred at −78° C. under nitrogen. A solution of 2-(1-hydroxy-ethyl)-5,5-dimethyl-[1,4]dioxane-2-carboxylic acid benzyl ester (400 mg, 1.36 mmol) in tetrahydrofuran (3 mL) was added and the reaction mixture was stirred at −78° C. for 15 min. A solution of N-(5-chloro-2-pyridyl)bis(trifluoromethanesulfonimide) (1.06 g, 2.7 mmol) in tetrahydrofuran (5 mL) was added and the reaction mixture was stirred at −78° C. for 30 min. The reaction mixture was warmed to room temperature and then stirred at room temperature for 5 h. The reaction mixture was cooled to 5° C., saturated ammonium chloride solution was cautiously added and the mixture was extracted with ethyl acetate. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 9:1 to 4:1 to afford crude 5,5-dimethyl-2-(1-trifluoromethanesulfonyloxy-ethyl)-[1,4]dioxane-2-carboxylic acid benzyl ester (833 mg, 1.3 mmol) as a yellow oil which darkened upon standing and as a 2:1 mixture of diastereoisomers which was used immediately in the next step. LCMS (m/z) 449.0 [M+H], Tr=3.29 min. A solution of 5,5-dimethyl-2-(1-trifluoromethanesulfonyloxy-ethyl)-[1,4]dioxane-2-carboxylic acid benzyl ester (833 mg, 1.3 mmol) in dichloromethane (5 mL) was stirred at room temperature under nitrogen. 1,8-Diazabicycloundec-7-ene (790 mg, 0.8 mL, 5.2 mmol) was added and the reaction mixture was stirred at room temperature for 72 h. The reaction mixture was cooled to 0° C. and acidified to pH 2 with ice cold hydrochloric acid (2 M). The mixture was extracted with dichloromethane. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/diethyl ether 9:1 to 3:1 to afford the title compound (189 mg, 52% over two steps) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ 1.13 (s, 3H), 1.32 (s, 3H), 3.53 (d, J=11.8 Hz, 1H), 3.66 (d, J=11.8 Hz, 1H), 3.72 (d, J=12.1 Hz, 1H), 4.24 (d, J=12.1 Hz, 1H), 5.19-5.35 (m, 3H), 5.51 (dd, J=17.4, 0.9 Hz, 1H), 5.80 (dd, J=17.4, 10.7 Hz, 1H), 7.35-7.40 (m, 5H). LCMS (m/z) 277.1 [M+H], Tr=2.81 min.

reactant | 5,5-dimethyl-2-(1-trifluoromethanesulfonyloxy-ethyl)-[1,4]dioxane-2-carboxylic acid benzyl ester | 1.3 mmol, 833 mg | C(C1=CC=CC=C1)OC(=O)C1(OCC(OC1)(C)C)C(C)OS(=O)(=O)C(F)(F)F | C17H21F3O7S
reactant | 1,8-Diazabicycloundec-7-ene | 5.2 mmol, 0.8 mL, 790 mg | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5,5-Dimethyl-2-vinyl-[1,4]dioxane-2-carboxylic acid benzyl ester | 189 mg, 52% | C(C1=CC=CC=C1)OC(=O)C1(OCC(OC1)(C)C)C=C | C16H20O4
